Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Auto Transplant
 
Major Surgical or Invasive Procedure:
Tunneled line removed ___ prior to discharge

 
History of Present Illness:
___ year old male with stage III IgA lambda multiple myeloma who 
originally presented with back pain end of ___ of this year. 
Patient found to have multiple compression fractures, 
deformities and lucent lesion in femur. Patient serum w/u 
consistent with IgA lambda secreting multiple myeloma, UPEP
negative. He was initiated on ___ with RVD. He underwent T12 
vertebrectomy, fusion ___, anterior spacers X2, 
vertobroplasty X2, autograft on ___, multiple thoracic and 
lumbar laminotomies and allograft on ___. This was 
complicated with hospital acquired pneumonia resulting in left 
chest tube on
___, ___, multifactorial ileus. He was discharged to 
___ and ultimately returned home. He completed a 
total of 7C of RVD, restaging BM bx on ___ consistent with no 
evidence of myeloma with normal serum markers. Patient underwent 
stem cell collection then developed recurrent C diff infection,
now clinically improved and now presents for autologous stem 
cell transplant with melphalan preparatory regimen. However, 
noted for continued diarrhea and LLQ pain, therefore started tx 
with rifaximin, showed clinical improvement, therefore resumed 
auto with melphalan prep. Course complicated by nausea, 
vomiting, diarrhea with first FN spike on ___.
 
Past Medical History:
___: New diagnosis of IgA Multiple Myeloma
 
Social History:
___
Family History:
Uncle and cousin with leukemia. No other family history of 
malignancy. Parents alive in ______, father with CVA several years 
ago. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GEN: NAD, thin appearing slightly anxious
VS: T 97.1  HR 73   BP  124/72  Resp 18   spO2 100%
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or 
axillary LAD
CV: Regular, normal S1 and S2 no S3, S4, or murmurs
PULM: Clear to auscultation bilaterally
ABD:  BS+, soft, ___, no masses, no 
hepatosplenomegaly
LIMBS: No edema, no inguinal adenopathy
SKIN: No rashes or skin breakdown
NEURO: Grossly ___, alert and oriented 

DISCHARGE PHYSICAL EXAM:
GEN: NAD, thin appearing
VS: Tm 100.2 ___ Tc 98 104/60 96 19 98%RA
HEENT: MMM, no OP lesions. No cervical, supraclavicular, or 
axillary LAD
CV: Regular, normal S1 and S2 no S3, S4, or murmurs
PULM: ___. Clear to auscultation bilaterally
ABD: BS+, soft, ___, no masses, no hepatosplenomegaly, 
tenderness with mild palpation LLQ but this is baseline, no 
rebound tenderness
LIMBS: No edema, no inguinal adenopathy
SKIN: Faint erythematous ___ macular papules with 
pustular center on anterior/posterior chest and scalp almost 
resolved, now ___. Clustered erythematous macules on 
posterior scalp consistent with birth mark. No other skin 
eruptions or skin breakdown
NEURO: Grossly ___, alert and oriented x 3
LINE: Right Tunneled line, removed ___ prior to discharge
 
Pertinent Results:
LABS

___ 12:00AM BLOOD ___ 
___ Plt ___
___ 10:10AM BLOOD ___ 
___ Plt ___
___ 12:00AM BLOOD ___ 
___ 
___
___ 10:10AM BLOOD ___ 
___ Im ___ 
___
___ 12:00AM BLOOD ___ 
___
___ 12:00AM BLOOD ___ 
___
___ 12:00AM BLOOD Plt ___ Plt ___
___ 10:10AM BLOOD ___ ___
___ 12:00AM BLOOD Ret ___ Abs ___
___ 12:00AM BLOOD ___ 
___
___ 10:10AM BLOOD ___ 
___
___ 12:00AM BLOOD ___ LD(LDH)-234 ___ 
___
___ 10:10AM BLOOD ___ LD(___)-146 ___ 
___
___ 12:00AM BLOOD ___
___ 10:10AM BLOOD ___ 
___
___ 01:57PM BLOOD ___

IMAGING:

CXR ___

IMPRESSION: New right supraclavicular central venous catheter 
ends close to the superior cavoatrial junction. Lungs clear. 
Heart size normal.  No pleural abnormality. 

CT ABD ___

IMPRESSION: 
  
1.  No acute ___ or intrapelvic process, within 
limitations of 
noncontrast technique. 

2.  No pneumoperitoneum or ascites.  The appendix is equivocally 
seen, 
appearing normal. 

3.  Interval spinal fusion involving the lower thoracic upper 
lumbar spine.  Stable appearance of L3 and L5 vertebral body 
compression deformities. 

CXR ___

FINDINGS: Expected appearance after tunneled line removal. 
  
IMPRESSION: Successful removal of a right chest tunneled line. 
 
Brief Hospital Course:
ASSESSMENT AND PLAN:
___ year old male with IgA Lambda MM s/p 7C of RVD in CR now 
presenting for autologous stem cell transplant held for 2 days 
with continued LLQ pain now improved on Rifaximin and thus 
initiated melphalan ___, course now complicated by rash, n/v/d
and FN.

D+15 ___

#FN: first FN spike 100.4 on ___ but has been afebrile since 
___. No chills, rigors, localizing sx include diarrhea/slight 
mucositis/slight cough but this is now improved with count 
recovery, likely bacterial translocation in setting of severe
neutropenia.
-CXR neg
-b culture, u culture neg
-d/c vanc with count recovery and no fevers > 24hrs on ___
-d/c cefe ___ with no further fevers

#Rash: Resolving, new skin eruption noted on ___, pruritic 
erythematous rash on chest, ___ with pustular center. 
Likely folliculitis due to nature of distribution, predisposed 
in the setting of receiving steriods. Possibly drug 
hypersensitivity but unlikely as no new medications have been 
recently introduced.
Continue with bactroban to affected area and appropriate skin 
care, monitoring closely

#Orthostatic hypotension: Resolved, noted ___, likely 
secondary to hypovolemia as evidenced by GI loss (diarrhea). NS 
bolus x 1 at that time with improvement in BP. Patient with fair 
oral intake at discharge, diarrhea significantly improved, 
monitoring closely

#Myeloma: Melphalan 180 mg IV Q24H on Days -3 and -2.(100 mg/m2) 

-Cryotherapy PO 1 unit Q24H on Days -3 and -2. Administer sugar 
free popsicles 15 minutes prior to each Melphalan dose, during 
the infusion of Melphalan and continuing until 60 minutes after 
the completion of Melphalan as tolerated.
-D0 ___, tolerated stem cell infusions     
-Antiemetics/IVF per protocol
-Neupogen started D+4 (___) per protocol, d/c'd D+11 
(___) with count recovery
-Plan for lab draw on ___, discharged on ___

#Cough: Resolved, new slightly productive cough, denies dyspnea, 
cp, no hypoxia, but in setting of low grade fever and 
neutropenia, obtained CXR which ruled out infectious process. 
Used robutussin and nasal spray prn while inhouse, discontinued 
at discharge.

#Abdominal Pain: Stable at discharge. Concern for continued LLQ 
pain and diarrhea post treatment for recurrent ___. Patient 
describes as stable and has been an issue for quite some time. 
___ be secondary to SBO, trialing rifaximin 550mg TID vs 
neuropathy of that dermatome due to extensive spinal surgeries 
in the past. Has noted improvement since adding rifaximin. 
However, CT Abd/Pelvis obtained ___ to rule out acute 
abdominal infectious process, stable. 

#Hyperbilirubinemia: Stable at discharge. Total bilirubin was 
trending up in the past several days; however, currently, it is 
0.3 with normal levels of Ast, Alt, and Alk phos. Patient 
asymptomatic besides baseline LLQ. Acute cholangitis less likely 
as afebrile and w/o acute RUQ pain. Other differential dx: VOD, 
although less likely in auto transplant patients or hemolysis 
(no acute evidence of bleeding on exam, other hemolysis labs 
stable). More likely ___ syndrome as indirect/direct 
bilirubin not elevated and less likely biliary obstruction. Will 
consider sonogram of liver for further evaluation if persists. 

#Recurrent ___: C diff + ___, repeat ___ negative but 
will continue on oral vancomycin throughout the transplant 
process and at discharge. 

#Nausea/anorexia: Fluctuates but steadily improving, most likely 
secondary to melphalan. Zofran and Ativan prn, added low dose 
zyprexa ___ for better control. Trailing chicken broth and 
increasing liquid intake, initiated calorie counts, not at goal 
but holding TPN as expect count recovery within the next few 
days and improvement in symptoms, changed IV antiemetic needs to 
oral in anticipation for discharge.

#Anxiety/insomnia: continues on mirtrazapine qhs 

#Infectious prophylaxis:
- PCP: ___ +21 or until plt recover -deferred initiation to 
outpatient provider
- HSV/VZV: acyclovir
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Lorazepam ___ mg PO Q4H:PRN nausea anxiety insomnia 
3. Mirtazapine 30 mg PO QHS 
4. Omeprazole 40 mg PO BID 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
7. Vancomycin Oral Liquid ___ mg PO Q6H 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Lorazepam ___ mg PO Q4H:PRN nausea anxiety insomnia 
3. Mirtazapine 30 mg PO QHS 
RX *mirtazapine 30 mg 1 tablet(s) by mouth @hs Disp #*30 Tablet 
Refills:*0
4. Omeprazole 40 mg PO BID 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
6. Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin [Vancocin] 125 mg 1 capsule(s) by mouth four 
times a day Disp #*120 Capsule Refills:*4
7. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth TID prn Disp #*90 
Tablet Refills:*3
8. OLANZapine 5 mg PO BID 
RX *olanzapine 5 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
9. Rifaximin 550 mg PO/NG TID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth three times 
a day Disp #*90 Tablet Refills:*3
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
Your outpatient provider ___ tell you when to start this 
medication 
RX ___ 400 ___ mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Stage III IgA Lambda Multiple Myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear  Mr. ___
You were admitted for an autologous stem cell transplant. 

You had a fever and mouth pain while your blood counts were low. 
We did a work up including blood testing, urine testing, and 
chest x rays which did not find a source of infection. You were 
placed on antibiotics for your fever spikes and your fevers 
resolved. 

You also developed nausea, diarrhea and loss of appetite while 
you were admitted. These are common side effects after 
transplant and your symptoms continue to improve.

Your nausea medications are as follows:
1 zofran
2 Ativan
3 zyprexa

You will continue to take acyclovir to prevent infection. You 
will start to take Bactrim to prevent a certain type of 
pneumonia once your counts have fully recovered. Your outpatient 
provider ___ tell you when to start this. 

Please take your temperature twice a day, and call us if it goes 
above 100.4.  Please be sure to drink at least 2L (64oz) of 
fluid daily. Call if you are unable to do so, or if you have 
worsening nausea or watery stools.

It has been a pleasure taking care of you. 
 
Followup Instructions:
___